US08802697B2
Step 1: Synthesis of (2-amino-5-bromophenyl)methanol
To a solution of 2-amino-5-bromobenzoic acid (10.0 g, 46.3 mmol) in THF (150 mL) was added BH3-THF (1M, 231 mL) at room temperature, and the reaction mixture was stirred overnight. An aliquot of the reaction mixture was analyzed by LCMS and indicated that the reaction had proceeded to completion. The reaction was quenched with water (150 mL) and extracted with EtOAc (3×500 mL). The organic layers were separated, combined, washed with water (200 mL) and brine (200 mL), dried over sodium sulfate, filtered, and concentrated to afford the title compound (10 g, crude), which was directly used in the next step without further purification. MS (ES+) C7H8BrNO requires: 201. found: 202, 204 [M+H]+.

reactant | 2-amino-5-bromobenzoic acid | 46.3 mmol, 10.0 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | BH3-THF | 1M, 231 mL | B.C1CCOC1
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2-amino-5-bromophenyl)methanol | 10 g | NC1=C(C=C(C=C1)Br)CO | C7H8BrNO
